US07994331B2
Production of 2-bromo-5-(methoxymethoxy)pyridine
Methoxymethyl chloride (73 ml) was added to a tetrahydrofuran (1.3 L) solution of 6-bromo-3-pyridinol (129 g) thus obtained, and sodium hydride (40% liquid paraffin added, 32 g) was added to it in such a manner that the inner temperature could not be above −10° C. Water was added, and extracted with ethyl acetate, and the organic layer was washed with saturated saline water. After dried, the solvent was evaporated away under reduced pressure, and this was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=9/1 to 8/1) to obtain the entitled compound as a colorless oily substance.

reactant | Methoxymethyl chloride | 73 ml | COCCl | C2H5ClO
reactant | tetrahydrofuran | 1.3 L | O1CCCC1 | C4H8O
reactant | 6-bromo-3-pyridinol | 129 g | BrC1=CC=C(C=N1)O | C5H4BrNO
reactant | sodium hydride | 32 g | [H-].[Na+]
solvent | Water | O | H2O
product | 2-bromo-5-(methoxymethoxy)pyridine | BrC1=NC=C(C=C1)OCOC | C7H8BrNO2
